US05608056
To a solution of (2R,4R)-1-allyloxycarbonyl-4-hydroxy-2-[3-(imidazol-1-yl)propyl]pyrrolidine (12.5 g) in tetrahydrofuran (125 ml) were added successively triphenylphosphine (17.6 g) and diethyl azodicarboxylate (10.6 ml) at -10° C. and the solution was stirred at the same temperature for 30 minutes. Then thiobenzoic acid (9.5 ml) was added at the same temperature and the solution was stirred for 3 hours. To the solution was added ethyl acetate (125 ml) and washed with saturated aqueous sodium hydrogen carbonate (125 ml×2) and brine (250 ml). The solution was dried over magnesium sulfate and the solvent was evaporated to give a yellow oil. The oil was chromatographed on a 500 g of silica gel to give (2R,4S)-1-allyloxycarbonyl-4-benzoylthio-2-[3-(imidazol-1-yl)propyl]pyrrolidine (15.3 g) as a yellow paste.

reactant | (2R,4R)-1-allyloxycarbonyl-4-hydroxy-2-[3-(imidazol-1-yl)propyl]pyrrolidine | 12.5 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O)CCCN1C=NC=C1 | C14H21N3O3
reactant | triphenylphosphine | 17.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 10.6 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | thiobenzoic acid | 9.5 ml | C(C1=CC=CC=C1)(=S)O | C7H6OS
solvent | tetrahydrofuran | 125 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 125 ml | C(C)(=O)OCC | C4H8O2
product | (2R,4S)-1-allyloxycarbonyl-4-benzoylthio-2-[3-(imidazol-1-yl)propyl]pyrrolidine | 15.3 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC(C1=CC=CC=C1)=O)CCCN1C=NC=C1 | C21H25N3O3S
